US04011321
Hydrazine hydrate (4.65 ml, 0.09 mole) was added to a solution of methyl 3-[2-(2-hydroxy-3-isopropylaminopropoxy) benzoyl]propionate (10 g, 0.03 mole) in glacial acetic acid (80 ml) and the solution was heated under reflux for one hour. Evaporation under reduced pressure gave an oil (25.5 g.) which was dissolved in water, treated with an excess of sodium carbonate solution and extracted with dichloromethane. Evaporation of the dried extracts gave an oil (10.3 g.) which was purified on a silica column by elution with a mixture of chloroform and methanol to give 6-[2-(2-hydroxy-3-isopropyl-aminopropoxy)-phenyl]-4,5-dihydro-3(2H)-pyridazinone (6.25 g, 66%), m.p. 124°-126° C. The hydrochloride, crystallised from 2-propanol, had m.p. 162°-164.5° C.

reactant | Hydrazine hydrate | 0.09 mole, 4.65 ml | O.NN
reactant | methyl 3-[2-(2-hydroxy-3-isopropylaminopropoxy) benzoyl]propionate | 0.03 mole, 10 g | OC(COC1=C(C(=O)CCC(=O)OC)C=CC=C1)CNC(C)C | C17H25NO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-[2-(2-hydroxy-3-isopropyl-aminopropoxy)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 6.25 g, 66% | OC(COC1=C(C=CC=C1)C=1CCC(NN1)=O)C(C(C)C)N | C16H23N3O3
